US07253158B2
c) 4-{[(4-Chloro-benzenesulfonyl)-((R)-2-oxo-azepan-3-yl)-amino]-methyl}-benzamide
4-Chloro-N-((R)-2-oxo-azepan-3-yl)-benzenesulfonamide (0.18 g, 0.60 mmol), 4-bromo-methyl-benzamide (0.19 g, 0.90 mmol), K2CO3 (0.83 g, 6 mmol), KI (0.02 g, 0,12 mmol) were added to dry DMF (15 ml) and the resultant reaction mixture was shaken overnight at 60° C. under an argon atmosphere. The solvent was removed under reduced pressure and the residue dissolved in acetonitrile and purified using preparative RP(C18) chromatography: lyophilisate 52 mg; MS: m/e=436.4 (MH+)

reactant | 4-Chloro-N-((R)-2-oxo-azepan-3-yl)-benzenesulfonamide | 0.60 mmol, 0.18 g | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H]1C(NCCCC1)=O | C12H15ClN2O3S
reactant | 4-bromo-methyl-benzamide | 0.90 mmol, 0.19 g | BrC1=CC(=C(C(=O)N)C=C1)C | C8H8BrNO
reactant | K2CO3 | 6 mmol, 0.83 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 4-{[(4-Chloro-benzenesulfonyl)-((R)-2-oxo-azepan-3-yl)-amino]-methyl}-benzamide | ClC1=CC=C(C=C1)S(=O)(=O)N([C@H]1C(NCCCC1)=O)CC1=CC=C(C(=O)N)C=C1 | C20H22ClN3O4S
